US06251926B1
A mixture of ethyl pyruvate (9.50 g), hydroxylamine hydrochloride (6.82 g), sodium acetate (10.1 g) and ethanol (150 ml) was heated under reflux for 17 hours. The reaction mixture was concentrated, and the residue was diluted with water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4), and then concentrated. The residual crystals were recrystallized from ethyl acetate-hexane to obtain ethyl E-2-hydroxyiminopropionate (6.33 g, yield 59%) as colorless crystals. m.p. 98-99° C.

reactant | ethyl pyruvate | 9.50 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | hydroxylamine hydrochloride | 6.82 g | Cl.NO
reactant | sodium acetate | 10.1 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl E-2-hydroxyiminopropionate | 6.33 g, yield 59% | O\N=C(\C(=O)OCC)/C | C5H9NO3
